US08629137B2
Step 3: 6-(3,5-difluoro-benzoyl)-3,4-dimethyl-3H-benzoxazol-2-one
0.349 g (8.00 mmol) sodium hydride (55%, suspension in mineral oil) were added at RT to 2.20 g (7.61 mmol) 6-(3,5-difluoro-benzoyl)-4-methyl-3H-benzoxazol-2-one in 10 mL DMF. The reaction mixture was stirred for 30 min at RT. Then 0.634 mL (10.0 mmol) iodomethane were added and the mixture was stirred for 1 h at RT. Then another 0.1 mL iodomethane were added and the mixture was stirred further at RT. After the addition of ice water the mixture was extracted with EtOAc. The organic phase was washed with water, dried on sodium sulphate and evaporated down i. vac. The residue was purified by flash chromatography. The fractions containing the product were combined, evaporated down and dried i. vac.

reactant | sodium hydride | 8.00 mmol, 0.349 g | [H-].[Na+]
reactant | 6-(3,5-difluoro-benzoyl)-4-methyl-3H-benzoxazol-2-one | 7.61 mmol | FC=1C=C(C(=O)C2=CC3=C(NC(O3)=O)C(=C2)C)C=C(C1)F | C15H9F2NO3
reactant | iodomethane | 10.0 mmol, 0.634 mL | IC | CH3I
reactant | iodomethane | 0.1 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(3,5-difluoro-benzoyl)-3,4-dimethyl-3H-benzoxazol-2-one | FC=1C=C(C(=O)C2=CC3=C(N(C(O3)=O)C)C(=C2)C)C=C(C1)F | C16H11F2NO3
